US09260397B2
1-(4-chlorophenyl)-3-propyl imidazolium bromide
According to the general synthesis procedure, 5.60 mmol (1.00 g) 1-(4-chlorophenyl)imidazole and 6.7 mmol (0.830 g, 0.61 ml) 1-bromopropane are dissolved in 5 ml THF and heated for 18.5 h to 90° C.

reactant | 1-(4-chlorophenyl)imidazole | 5.60 mmol, 1.00 g | ClC1=CC=C(C=C1)N1C=NC=C1 | C9H7ClN2
reactant | 1-bromopropane | 6.7 mmol, 0.61 ml, 0.830 g | BrCCC | C3H7Br
solvent | THF | 5 ml | C1CCOC1 | C4H8O
product | 1-(4-chlorophenyl)-3-propyl imidazolium bromide | [Br-].ClC1=CC=C(C=C1)[N+]1=CN(C=C1)CCC | InChI=1S/C12H14ClN2.BrH/c1-2-7-14-8-9-15(10-14)12-5-3-11(13)4-6-12;/h3-6,8-10H,2,7H2,1H3;1H/q+1;/p-1
